US06117866
a) t-butyl 3-methyl-4-nitrobenzoate
3-Methyl-4-nitrobenzoic acid (500 g, 2.76 mol) was added to pyridine (1.25 L) and stirred until it dissolved. Benzenesulfonyl chloride (609 g, 3.45 mol) was added rapidly while maintaining the internal temperature <30° C. with an ice bath. A precipitate formed towards the end of the addition and pyridine (500 mL) was added to improve stirring. The mixture was stirred for 30 min and t-butanol (523 mL) was added dropwise over 30 min at <30° C. The mixture was stirred for 2 h, dissolved in hexane:ethyl acetate (4:1; 2.5 L) and the resulting mixture was extracted with water. The organic phase was concentrated to give a light yellow oil which crystallized on cooling to give the title compound (635 g, 97%). mp 56-58° C.

reactant | 3-Methyl-4-nitrobenzoic acid | 2.76 mol, 500 g | CC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO4
reactant | pyridine | 1.25 L | N1=CC=CC=C1 | C5H5N
reactant | Benzenesulfonyl chloride | 3.45 mol, 609 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
reactant | t-butanol | 523 mL | C(C)(C)(C)O | C4H10O
solvent | hexane ethyl acetate | 2.5 L | CCCCCC.C(C)(=O)OCC
product | t-butyl 3-methyl-4-nitrobenzoate | 635 g, 97% | CC=1C=C(C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C12H15NO4
